US07521447B2
Step C: (S)-2-Amino-4-[(2-methoxyethyl)-methylamino]-butyric acid methyl ester dihydrochloride:
(S)-2-tert-Butoxycarbonylamino-4-[(2-methoxyethyl)-methylamino]-butyric acid methyl ester (0.086 g, 0.28 mmol) was treated with HCl (1 mL of 4M in dioxane) and sonicated. The mixture was concentrated and dried under high vacuum to provide the product.

reactant | (S)-2-tert-Butoxycarbonylamino-4-[(2-methoxyethyl)-methylamino]-butyric acid methyl ester | 0.28 mmol, 0.086 g | COC([C@H](CCN(C)CCOC)NC(=O)OC(C)(C)C)=O | C14H28N2O5
reactant | HCl | 4M, 1 mL | Cl | ClH
product | (S)-2-Amino-4-[(2-methoxyethyl)-methylamino]-butyric acid methyl ester dihydrochloride | Cl.Cl.COC([C@H](CCN(C)CCOC)N)=O | InChI=1S/C9H20N2O3.2ClH/c1-11(6-7-13-2)5-4-8(10)9(12)14-3;;/h8H,4-7,10H2,1-3H3;2*1H/t8-;;/m0../s1
